US09023847B2
66. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-benzylsulfanyl-ethyl)-amide
This compound was prepared in an analogous manner as 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-amino-ethyl)-amide using 2-(benzylsulfanyl)ethanamine instead of tert-butyl-2-amino ethyl carbamate. LCMS (ESI) 409 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.52 (1H, br. s.) 10.33-10.38 (1H, m) 8.22 (1H, t, J=5.66 Hz) 8.00 (1H, d, J=5.47 Hz) 7.76 (1H, d, J=5.47 Hz) 7.45-7.51 (1H, m) 7.15-7.36 (5H, m) 6.82 (1H, d, J=5.47 Hz) 6.43 (1H, dd, J=3.42, 1.85 Hz) 3.75 (2H, s) 3.35-3.47 (2H, m) 2.51-2.58 (2H, m)

reactant | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-amino-ethyl)-amide | NCCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C14H15N5OS
reactant | 2-(benzylsulfanyl)ethanamine | C(C1=CC=CC=C1)SCCN | C9H13NS
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-benzylsulfanyl-ethyl)-amide | C(C1=CC=CC=C1)SCCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H20N4OS2
